US04816582
80.55 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-bromoethoxy)imino]-acetate and 187.4 g of sodium iodide are boiled under reflux in 1.5 l of methyl ethyl ketone for 1.5 hours. After removal of the solvent by evaporation, the residue is partitioned between 0.6 l of water and 0.2 l of ethyl acetate, the aqueous phase is back-extracted twice with 0.2 l of ethyl acetate each time, the organic extracts are thereupon combined, washed with 0.2 l of aqueous 15% sodium chloride solution, dried and evaporated. The residue is recrystallized from 0.7 l of toluene. 83.5 g of ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-iodoethoxy)imino]acetate are obtained.

reactant | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-bromoethoxy)imino]-acetate | 80.55 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCBr | C9H12BrN3O3S
reactant | sodium iodide | 187.4 g | [I-].[Na+]
solvent | methyl ethyl ketone | 1.5 l | C(C)C(=O)C | C4H8O
product | ethyl 2-(2-amino-4-thiazolyl)-2-[(Z)-(2-iodoethoxy)imino]acetate | 83.5 g | NC=1SC=C(N1)/C(/C(=O)OCC)=N/OCCI | C9H12IN3O3S
